US07078438B2
Step D: Preparation of 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]-N-[2 (vinyloxy)ethoxy]benzamide
The title compound was prepared from reaction of 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]benzoic acid with 1-[2-(aminooxy)ethoxy]ethylene and DMT-MM by the general procedure of Example 6, Step B, then purified by column chromatography on silica gel (20% EtOAc/PE as eluant) to give 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]-N-[2-(vinyloxy)ethoxy]benzamide as a white solid (46%), which was employed directly in the next step. 1H NMR [400 MHz, (CD3)2SO] δ 11.93 (br s, 1 H), 8.79 (br s, 1 H), 7.44–7.38 (m, 1 H), 7.14–7.05 (m, 1H), 7.04 (dd, J=12.6, 1.6 Hz, 1 H), 6.89 (dd, J=8.2, 1.6 Hz, 1 H), 6.82 (ddd, J=8.7, 8.7, 4.4 Hz, 1 H), 6.50 (dd, J=14.3, 6.7 Hz, 1 H), 4.45 (t, J=5.1 Hz, 1 H), 4.18 (dd, J=14.3, 1.9 Hz, 1 H), 4.06–4.01 (m, 2 H), 3.98 (dd, J=6.6, 1.9 Hz, 1 H), 3.89–3.82 (m, 2 H), 3.42–3.35 (m, 2 H), 2.56 (t, J=7.7 Hz, 2 H), 1.72–1.64 (m, 2 H). LCMS (APCI−) 409 (M−H).

reactant | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)CCCO)F | C16H14F3NO3
reactant | 1-[2-(aminooxy)ethoxy]ethylene | NOCCOC=C | C4H9NO2
reactant | DMT-MM | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]-N-[2-(vinyloxy)ethoxy]benzamide | 46% | FC=1C(=C(C(=O)NOCCOC=C)C=CC1F)NC1=C(C=C(C=C1)CCCO)F | C20H21F3N2O4
